US07612054B2
[(S)-2-(4-Benzyloxy-phenyl)-1-((2S,4R)-4-methyl-5-oxo-tetrahydro-furan-2-yl)-ethyl]-carbamic acid tert-butyl ester
[(S)-2-(4-Benzyloxy-phenyl)-1-((S)-5-oxo-tetrahydro-furan-2-yl)-ethyl]-carbamic acid tert-butyl ester (2.9 g, 7.04 mmol) is dissolved in THF (10 ml) and DMPU (1.34 ml, 10.6 mmol, 1.5 eq). A 1 M solution of lithium hexamethyldisilazide in THF (14.1 ml, 14.1 mmol, 2 eq) is added at −78° C. over 40 min and the mixture is stirred for another 20 min. Methyliodide (0.88 ml, 14.1 mmol, 2 eq) is added dropwise and the mixture is stirred for another 3 h at −78° C. before adding propionic acid (2.69 ml, 36 mmol, 5 eq) and water. After warming up to rt the mixture is poured on 10% citric acid (50 ml) and extracted with EtOAc. The organic layer is washed with bicarbonate and brine, dried over magnesium sulfate and evaporated. The crude product is purified by chromatography on silica (hexane/EtOAc 8/2 to 7/3) followed by recrystallization from hexane/DCM to give 2.2 g white solid.

reactant | [(S)-2-(4-Benzyloxy-phenyl)-1-((S)-5-oxo-tetrahydro-furan-2-yl)-ethyl]-carbamic acid tert-butyl ester | 7.04 mmol, 2.9 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@H]1OC(CC1)=O)=O | C24H29NO5
reactant | DMPU | 10.6 mmol, 1.34 ml, 1.5 eq | CN1CCCN(C1=O)C | C6H12N2O
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | Methyliodide | 14.1 mmol, 0.88 ml, 2 eq | CI | CH3I
reactant | propionic acid | 36 mmol, 2.69 ml, 5 eq | C(CC)(=O)O | C3H6O2
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 14.1 mmol, 14.1 ml, 2 eq | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | [(S)-2-(4-Benzyloxy-phenyl)-1-((2S,4R)-4-methyl-5-oxo-tetrahydro-furan-2-yl)-ethyl]-carbamic acid tert-butyl ester | 2.2 g | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)[C@H]1OC([C@@H](C1)C)=O)=O | C25H31NO5
